US07132426B2
In a variation of the method described by Yarovenko et al, (Bull. Acad. Sci. USSR, Div. Chem. Sci. 1991, 40, 1924) ZnCl2, (1 N in ether, 120 mL, 120 mmol) was added in a dropwise fashion over 15 min to a magnetically stirred solution of N-hydroxy-isobutyramidine (12.2 g, 120 mmol) and 4-hydroxypiperidine-1-carbonitrile (12.6 g, 100 mmol) in ethyl acetate (500 mL). Precipitate formed immediately upon addition, and at a point the stirring bar became immobilized in the matrix, requiring the reaction to be manually shaken for the remainder of addition. After standing for 15 min, the supernatant was decanted and filtered, and the residue was rinsed twice with ether, furnishing a hard white precipitate which was collected by filtration. This material was taken up in conc. HCl (50 mL), diluted to 4 N with EtOH (100 mL), and refluxed for 1 h. Upon cooling, a white precipitate was removed by filtration, then the filtrate was reduced to 50 mL and diluted with 100 mL water. Solid Na2CO3 was added until the mixture was basic, CH2Cl2 was added, and the resulting mixture was filtered, rinsing with CH2Cl2. The organic extract was separated, dried over MgSO4, and the solvent was removed to afford a viscous, amber oil as 1-(3-isopropyl-[1,2,4]oxadiazol-5-yl)-piperidin-4-ol (15.0 g, 71% yield): 1H NMR (CDCl3) δ 3.95 (m, 3H), 3.37 (m, 2H), 2.88 (m, 1H), 2.34 (br s, 1H), 1.93 (m, 2H), 1.63 (m, 2H), 1.28 (d, 6H, J=7.1 Hz); MS m/z 212.3 (M+).

reactant | N-hydroxy-isobutyramidine | 120 mmol, 12.2 g | ONC(C(C)C)=N | C4H10N2O
reactant | 4-hydroxypiperidine-1-carbonitrile | 100 mmol, 12.6 g | OC1CCN(CC1)C#N | C6H10N2O
solvent | ether | CCOCC | C4H10O
solvent | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
catalyst | ZnCl2 | [Cl-].[Cl-].[Zn+2]
product | 1-(3-isopropyl-[1,2,4]oxadiazol-5-yl)-piperidin-4-ol | 15.0 g, 71% yield | C(C)(C)C1=NOC(=N1)N1CCC(CC1)O | C10H17N3O2
